US09284272B2
5′-Methoxyspiro[cyclobutane-1,3′-indol]-2′-amine was prepared according to the procedure outlined in Example 2 substituting 1,3-dibromopropane for 1,3-dibromopentane and 2-(3-methoxyphenyl)acetonitrile for 2-(3,4-dimethoxyphenyl)acetonitrile in Step 1 of the three-step sequence. 1H NMR (400 MHz, DMSO) δ 11.87 (s, 1H), 10.02 (s, 1H), 9.83 (s, 1H), 7.42 (d, J=2.4 Hz, 1H), 7.05 (d, J=8.5 Hz, 1H), 6.89 (dd, J=8.6, 2.5 Hz, 1H), 3.80 (s, 3H), 2.40-2.24 (m, 1H), 2.24-2.04 (m, 3H). MS (APCI) m/z 203 (M+H)+.

reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
reactant | 1,3-dibromopentane | BrCCC(CC)Br | C5H10Br2
reactant | 2-(3-methoxyphenyl)acetonitrile | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | 2-(3,4-dimethoxyphenyl)acetonitrile | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
product | 5′-Methoxyspiro[cyclobutane-1,3′-indol]-2′-amine | COC=1C=C2C3(C(=NC2=CC1)N)CCC3 | C12H14N2O
